US07605265B2
(7-Bromo-heptyl)-(6-chloro-1,2,3,4-tetrahydro-acridin-9-yl)-amine:
Potassium hydroxide (95 mg, 1.7 mmoL) was added to a solution of 6-chloro-1,2,3,4-tetrahydro-acridin-9-ylamine (395 mg, 1.7 mmoL) in dimethylsulfoxide (15 ml) and the mixture was stirred vigorously under nitrogen at room temperature for 2 h. 1,7-Dibromoheptane (438 mg, 1.7 mmoL) was added, and the reaction was continued to stir at room temperature for 12 h. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The combined ethyl acetate extract was dried, filtered and concentrated. The resulting residue was purified by column chromatography on silica gel using hexane/ethyl acetate/triethyl amine (8/2/1) to provide the desired product (244 mg, 0.60 mmoL) in 35% yield.

reactant | Potassium hydroxide | 95 mg | [OH-].[K+]
reactant | 6-chloro-1,2,3,4-tetrahydro-acridin-9-ylamine | 395 mg | ClC=1C=C2N=C3CCCCC3=C(C2=CC1)N | C13H13ClN2
reactant | 1,7-Dibromoheptane | 438 mg | BrCCCCCCCBr | C7H14Br2
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | (7-Bromo-heptyl)-(6-chloro-1,2,3,4-tetrahydro-acridin-9-yl)-amine | 244 mg, 35% yield | BrCCCCCCCNC=1C2=CC=C(C=C2N=C2CCCCC12)Cl | C20H26BrClN2
